US04550107
(S)-5,11-Dihydro-11-[[2-[(1-pyrrolidinyl)methyl]-1-pyrrolidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
The title compound is prepared analogously to Example 31 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and (S)-(+)-2-[(1-pyrrolidinyl)methyl]pyrrolidine to give colorless crystals, mp. 192°-193° C. (ethyl acetate). [α]D20 =-18.1° (ethanol).

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | (S)-(+)-2-[(1-pyrrolidinyl)methyl]pyrrolidine | N1(CCCC1)C[C@H]1NCCC1 | C9H18N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | C(C)O | C2H6O
product | (S)-5,11-Dihydro-11-[[2-[(1-pyrrolidinyl)methyl]-1-pyrrolidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | N1(CCCC1)C[C@H]1N(CCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C23H27N5O2
